US07795236B2
tert-Butyl N-(3′-benzyloxybiphenyl-4-ylmethyl)carbamate
To a mixture of tert-butyl N-(4-bromobenzyl)carbamate (5.00 g), 3-benzyloxyphenylboronic acid (4.38 g), sodium carbonate (3.70 g), water (14 mL) and N,N-dimethylformamide (70 mL) was added tetrakis(triphenylphosphine)palladium(0) (1.01 g), and the resulting mixture was stirred at 80° C. for 14 hours. The reaction mixture was cooled to room temperature and the insoluble material was filtered out. The filtrate was partitioned between ethyl acetate (110 mL) and water (50 mL). The organic layer was washed successively with water (50 mL) and brine (50 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on aminopropylated silica gel (eluent: hexane/ethyl acetate=6/1) to give the title compound (5.32 g).

reactant | tert-butyl N-(4-bromobenzyl)carbamate | 5.00 g | BrC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H16BrNO2
reactant | 3-benzyloxyphenylboronic acid | 4.38 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
reactant | sodium carbonate | 3.70 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 14 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | tert-Butyl N-(3′-benzyloxybiphenyl-4-ylmethyl)carbamate | 5.32 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C25H27NO3
